US07951803B2
To a solution of 8.6 g (50 mmol, 1.0 eq.) of 2-chloro-N4-ethylpyrimidine-4,5-diamine (I-5) in 200 mL of 2% v/v AcOH/DMA was added 6.0 mL (65 mmol, 1.3 eq.) of 4-pyridine carboxaldehyde. The mixture was heated at 140° C. for 14 h. The mixture was allowed to cool to room temperature and the solvent was removed in vacuo. The residue was purified by preparative HPLC to provide 2.0 g (7.7 mmol, 15%) of 2-chloro-9-ethyl-8-(pyridin-4-yl)-9H-purine (I-6).

reactant | 2-chloro-N4-ethylpyrimidine-4,5-diamine | 50 mmol, 8.6 g, 1.0 eq. | ClC1=NC=C(C(=N1)NCC)N | C6H9ClN4
reactant | 4-pyridine carboxaldehyde | 65 mmol, 6.0 mL, 1.3 eq. | N1=CC=C(C=C1)C=O | C6H5NO
solvent | AcOH DMA | CC(=O)O.CC(=O)N(C)C
product | 2-chloro-9-ethyl-8-(pyridin-4-yl)-9H-purine | 7.7 mmol, 2.0 g, 15% | ClC1=NC=C2N=C(N(C2=N1)CC)C1=CC=NC=C1 | C12H10ClN5
